US05053548
A solution was prepared by dissolving 0.53 g of Magnolol into DMF. The solution, wherein 80 mg of sodium hydride (60% oiliness) was added, was stirred at room temperature until generation of hydrogen gas stopped. The reaction mixture, added 1.0 g of 2-(10-iododecyloxy)tetrahydropyrane, was heated to 70° C. with stirring for 3 hours. The solvent in the reaction mixtures was removed under reduced pressure, and an aqueous solution of ammonium chloride was added into the residue to extract with diethylether. The extract was washed with an aqueous solution saturated with NaCl, dried with sodium sulfate and concentrated. The concentrate was purified by a silica gel column-chromatography (n-hexane:ethyl acetate=10:1) to yield 0.27 g of 4-allyl-2-[5-allyl-2-(10-tetrahydropyranyloxydecyloxy)phenyl]phenol. The subject thus obtained was dissolved into 10 ml of ethanol, 1 ml of hydrochloric acid was added thereinto and stirred for 3 hours at room temperature. The reactant, wherein 100 ml of water was added, was extracted with diethylether. The extract was washed with water, sodium hydrogencarbonate and an aqueous solution saturated with NaCl in turn, dried with sodium sulfate and concentrated. The concentrate was purified by a silica gel column-chromatography (n-hexane:ethyl acetate=15:1) to yield 0.16 g of 4-allyl-2-[5-allyl-2-(10-hydroxy-decyloxy)phenyl]phenol.

reactant | Magnolol | 0.53 g | C=CCC=1C=CC(=C(C1)C=2C=C(C=CC2O)CC=C)O | C18H18O2
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-(10-iododecyloxy)tetrahydropyrane | 1.0 g | ICCCCCCCCCCOC1OCCCC1 | C15H29IO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-allyl-2-[5-allyl-2-(10-tetrahydropyranyloxydecyloxy)phenyl]phenol | 0.27 g | C(C=C)C1=CC(=C(C=C1)O)C1=C(C=CC(=C1)CC=C)OCCCCCCCCCCOC1OCCCC1 | C33H46O4
